Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___
 
___ Complaint:
"I felt like I couldn't take another step" 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
"Pt is a ___ yo woman with schizoaffective disorder currently
under close outpatient care with Dr. ___, presenting with
suicidal ideation and fatigue. Per patient's report, she has
noticed increased fatigue over the past 2 weeks, lacking energy
to cook and clean, and staying in bed for much of the day, not
playing her violin, and missing some of her adult education
classes. Over the past week, she states she has also been
experiencing an increase in "fear" and "hopelessness" which she
describes as overwhelming. She experienced this fear yesterday
evening while in bed, as well as several minutes of suicidal
thinking with a plan to slit her throat. The patient did not act
on this plan in any way and states the thoughts were transient,
however, she decided to come to the hospital the following day
because of her ongoing fatigue, hopelessness and recent SI. The
patient states "my mom put a bug in my ear that I should come
into the hospital." 

The patient reports a long history of SI which has been
increasing in frequency recently. She denies any suicide
attempts. The patient also describes persecutory voices that 
have
been worsening in intensity recently telling her that "you are 
no
good," most recently 2 days ago. 

Of note, pt's lithium was recently reduced on ___ from 600 mg
to 450 mg in the setting of rising creatinine. She worries that
her worsening, fatigue, anxiety and SI may be related to this
dose decrease. 

Pt sometimes looses focus throughout interview stating "what 
were
we talking about?"

COLLATERAL

Dr. ___ psychiatrist note on ___:

___ yo woman with schizoaffective disorder, very friendly,
somewhat disorganized at baseline. Called to say she was
suicidal; has never told me this before, and said she can't 
trust
herself. This is in context of 25% reduction of lithium at our
last meeting (due to increasing creatinine). I think likelihood
of actual attempt is low but given uniqueness of this current
episode I think she should be observed overnight. Probably will
NOT need admission; I have appointment with her at 2 ___ on 
___.
I had her take extra dose of lithium tonight"

Pt's sister in law ___ ___:

"She's had one week of worsening fatigue. Her mood appeared to 
be
elevated though. I did not notice until later this evening the
confusion. She was having a hard time getting from A to B. She
was having a hard time tracking her train of thought, she
couldn't remember what we were talking about. There were 
previous
suicide attempts when she was younger but not for years and
years. Yesterday she had two short periods of suicidal ideation. 

She talked about feeling really afraid this evening, and feeling
a rush in her body, nausea, and tingling sensation on her skin -
it sounded to me like a panic attack"

Brother ___ ___, in person, he
has noticed a change in her mood recently, and that she does not
appear to be her usual self, her speech seems slurred, but this
comes and goes. When she is off her meds, she tends to become
symptomatic very quickly. 

In the ED, pt received 1L NS and 1L LR. Continued home
medications.

On interview today, the patient reports some improvement in her
anxiety now that she knows she is coming in to the hospital and
will be safe. She endorses some additional fleeting SI since
being in the hospital, as well as "friendly" voices. She also
endorses briefly seeing a "shadow" moving towards her while in
the ED, and having a "daydream" that she was "helping someone
else in the ED attack a nurse." She states she had difficulty
sleeping last night (slept about 3 hours) but reports good
appetite. Pt anxiously asks if it is ok that she is vegetarian,
and also asks if she will be getting her nighttime medications.
The patient states she still feel anxious because she is in
unfamiliar surrounding but thinks she will feel better once she
gets to know the unit. 

REVIEW OF SYSTEMS: 

- Ongoing fatigue and weakness with unsteady gait
- Cold sensitivity
- No BM for 5 days

-Psychiatric:

---Depression: Endorses depressed mood, fatigue/loss of energy,
anhedonia, thoughts of death/SI, sleep disturbance including
insomnia or hypersomnia, weight gain, poor concentration, 

---Anxiety: Endorses symptoms of anxiety such as worry,
rumination, panic.

---Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech. 

---Psychosis: Endorses symptoms of psychosis including auditory
and visual hallucinations

-General: Denies fever, chills, nightsweats, headache, focal
numbness, focal weakness, changes in vision, changes in hearing,
heat intolerance, polyuria, polydipsia, cough, SOB, CP,
palpitations, abdominal pain, nausea, vomiting, diarrhea, 
melena,
dysuria, increased urinary frequency, rash, skin changes, muscle
pain, edema, bruising, bleeding.
Endorses fatigue, constipation, cold intolerance and joint pain
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: [Extracted from Dr. ___ ___ 
ED
Initial Psychiatry Consult note, reviewed with patient, and
updated as appropriate.] 

 - Past diagnoses: schizoaffective disorder
 - Hospitalizations: multiple, ___ years in ___ in
___ hosp ___ years ago
 - Psychiatrist & Therapist: See Dr. ___ on outpatient basis
 - Medication and ECT trials (reason for d/c if known): on
lithium and clozapine
 - Self-injury/Suicide attempts: denies suicide attempt, 
endorses
chronic SI
 - Trauma: denies

PAST MEDICAL HISTORY: 

HYPOTHYROIDISM                                                  
CHRONIC KIDNEY DISEASE                                          
HYPERPARATHYROIDISM                                             
ORTHOSTATIC HYPOTENSION                                         
OBGYN                                                           
ADRENAL INCIDENTALOMA                                           
GENITAL HERPES                                                  
PERMISSION/PRIVACY                                              
HEALTH MAINTENANCE                                              
H/O ABORTION                                                    
H/O LIPOMA                                                      
H/O ABNORMAL PAP SMEAR      

COLPOSCOPY                                            ___      

DILATION AND CURETTAGE                                          

LIPOMA RESECTION                                                

___ EUA; HYSTEROSCOPY; D&C ___                   
Endometrial Curettage: Scant degenerated stromal cells, atrophic
endometrium and crystalline foreign material. Fragments of      
benign squamous epithelium. Note: Findings on this case were    
discussed with Dr. ___ email on ___.      
**PCP: ___ C., MD 

Denies history of head trauma, seizure. 

MEDICATIONS: [Including vitamins, herbs, supplements, OTC] 

- Clozapine 250 mg PO daily
- Clozapine 300 mg PO nightly
- Lithium carbonate ER 450 mg PO nightly 
- Levothyroxine 25 mcg PO daily
- cholecalciferol (vitamin D3) 2,000 unit tablet
2 tablet(s) by mouth daily 

ALLERGIES: Penicillins 
 
Social History:
SUBSTANCE USE HISTORY: 
 - EtOH: denies
 - Tobacco: denies
 - Cannabis: denies
 - Illicits: denies
.
FORENSIC HISTORY: 
-Arrests: Denies 
-Convictions and jail terms: Denies 
-Current status (pending charges, probation, parole): Denies 
.
SOCIAL HISTORY: ___
Family History:
FAMILY PSYCHIATRIC HISTORY: 
-Psychiatric Diagnoses: aunt with schizophrenia; brother with
anxiety
-___ Use Disorders: none
-Suicide Attempts/Completed Suicides: aunt
 
Physical ___:
VITAL SIGNS: 
T 98.4 
HR 86 
SBP 146/72 
RR 17 
Sp02 100% RA 

EXAM:

- GENERAL: awake, cooperative, NAD, fair grooming
- HEENT: normocephalic, atraumatic, moist mucous membranes, no
scleral icterus
- Cardiovascular:regular rate, well perfused
- Pulmonary: breathing comfortably on room air, no increased 
work
of breathing
- Abdominal: soft, non-distended, no guarding, no masses or
organomegaly
- Extremities: no cyanosis, clubbing, or edema bilaterally
- Skin: no rashes or lesions noted

NEUROLOGICAL  
 - Station and Gait: not observed; patient evaluated in ED bed
 - Strength: normal bulk; moves all extremities anti-gravity
 - Abnormal Movements: no tics, tremors, evidence of EPS
 - Cranial Nerves: EOMI, nasolabial folds symmetric, palate
elevates symmetrically, tongue protrudes midline

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: Spelled World backwards, intense concentration
required
- Orientation: oriented to person, place, situation, thought 
year
was ___
- Executive function (go-no go, Luria, trails, FAS):  not
formally tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min 
     - long-term grossly intact
- Fund of knowledge: 
     - intact to last 2 presidents: "___, ___..."
- Calculations: 
     - $1.25 = 5 quarters
- Abstraction: 
     - "the grass is always greener" = "things will always get
better"
     - apple/orange: both fruit
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS
- Appearance: appears stated age, lying down in hospital bed
while talking
- Attitude/Behavior: slightly childlike speaking voice, 
friendly,
calm, cooperative, forthcoming, no psychomotor agitation or
retardation, appropriate eye contact
- Mood: "scared"
- Affect: mood-congruent
- Speech: normal rate, soft volume, and prosody 
- Thought process: linear, coherent, goal-oriented, no loose
associations, some disorganization
- Thought Content: denies current SI, denies HI, no evidence of
paranoia, denies AVH, not appearing to be attending to internal
stimuli
- Judgment and Insight: Fair/limited
 
Pertinent Results:
___ 09:57PM BLOOD WBC-7.5 RBC-3.70* Hgb-11.7 Hct-36.0 
MCV-97 MCH-31.6 MCHC-32.5 RDW-13.1 RDWSD-46.3 Plt ___
___ 09:57PM BLOOD Neuts-63.8 ___ Monos-8.0 Eos-0.1* 
Baso-0.4 Im ___ AbsNeut-4.78 AbsLymp-2.05 AbsMono-0.60 
AbsEos-0.01* AbsBaso-0.03
___ 07:00AM BLOOD Creat-1.4*
___ 11:45AM BLOOD Glucose-88 UreaN-20 Creat-1.3* Na-147 
K-4.2 Cl-112* HCO3-24 AnGap-11
___ 05:00AM BLOOD Glucose-100 UreaN-20 Creat-1.1 Na-146 
K-3.7 Cl-121* HCO3-16* AnGap-9*
___ 09:57PM BLOOD Glucose-97 UreaN-26* Creat-1.4* Na-141 
K-4.1 Cl-108 HCO3-24 AnGap-9*
___ 07:00AM BLOOD TSH-3.7
___ 09:57PM BLOOD TSH-4.9*
___ 07:00AM BLOOD Free T4-1.0
___ 07:00AM BLOOD Lithium-0.9
___ 11:45AM BLOOD Lithium-0.9
___ 09:57PM BLOOD Lithium-1.7*#
___ 09:57PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:00AM BLOOD CLOZAPINE-PND
___ 10:30PM URINE Color-Straw Appear-Clear Sp ___
___ 10:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM*
___ 10:30PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 10:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout. She was initially sharps restricted but 
later granted monitored access and deemed appropriate for group 
walks after mood improved. She remained in good behavioral 
control and did not require any security or restraint 
interventions.

2. PSYCHIATRIC:
 #) Schizoaffective disorder
 1) Patient initially presented lethargic, slightly confused, 
with poor eye contact and disorganized and slowed thought 
process. She endorsed worsened anxiety, fearfulness, fatigue, 
depression, auditory hallucinations (negative, persecutory 
content), and suicidal ideation. At other times, she was more 
engaged, quite talkative, eye contact dramatically improved, 
slightly oddly-related and overly familiar, ie. attempted to hug 
providers. 
 2) Diagnostically, presentation appears most consistent with 
underlying schizoaffective disorder, with perhaps some 
decompensation around recent lithium titration. There was 
initial concern for delirium and hypothyroidism given her 
confusion and sedation, but patient's thyroid function panel was 
interpreted as within normal limits by her outpatient 
endocrinologist. Given her worsened renal function, there was 
also some consideration of lithium toxicity/reduced clearance 
but lithium level was within therapeutic range. 
 3) Intervention included titration of lithium to prior home 
dose of 600mg po qhs, which patient tolerated well. Her 
outpatient psychiatrist was able to visit and assess her while 
she was here. Her home regimen of clozapine 250mg po qAM + 300mg 
po qhs was continued. 
 4) Outcome included resolution of suicidal thoughts and 
improvement in anxiety, fearfulness. Fatigue persisted, but 
improved throughout stay. Discussed changing or ___ 
clozapine dose (ie. 150mg po qAM + 400mg po qhs), but patient 
was concerned about daytime grogginess if her evening dose was 
increased and preferred to maintain her existing regimen. She 
was noted to be slightly slowed and concrete in responses, and 
was thought to be at baseline by her outpatient psychiatrist Dr. 
___ appropriate for discharge after a short admission. 
 5) Future Considerations: If renal dysfunction persists, could 
consider cross taper to alternate mood stabilizer such as 
Depakote. It is an unfortunate balance, as patient has 
historically done quite well on lithium, but may have medical 
complications (hypothyroidism, renal insufficiency) as a 
somewhat expected consequence of long-term therapy. Clozapine 
level still pending at time of discharge. 

3. SUBSTANCE USE DISORDERS:
Patient had no active substance use needs during admission. 

4. MEDICAL
 #) CKD, Stage II: Creatinine trended, stable from 1.3-1.4 
throughout admission. Etiology suspected related to lithium 
nephrotoxicity; which will be tolerated during her acute 
psychiatric stabilization. Patient to follow-up with outpatient 
nephrology next week.  
 #) Hypothyroidism: Patient initially with elevated TSH to 4.9, 
decreased to 3.7 with free T4 of 1.0 on recheck. Clinically, 
patient did endorse symptoms of fatigue and constipation. 
Consultation with her outpatient endocrinologist, who felt she 
was euthyroid and unlikely to contribute to her acute 
psychiatric presentation. Continued home levothyroxine 25mcg po 
qday. 
 #) Constipation: Patient reported decreased bowel movement over 
several days. Resolved with psyllium wafers BID and senna 8.6mg 
po BID. 
 #) Vitamin D Deficiency: Continued home vitamin D3 4000 units 
daily. Patient to follow-up with routine bone density scan in 
___. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient rarely attended these groups that focused on teaching 
patients various coping skills.  Ms. ___ was occasionally 
visible in the milieu, but tended to be more isolative, spending 
much of her time in bed but easily arousing and engaging on 
approach. She appreciated and found support in a spiritual care 
consult. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral was provided by patient's outpatient psychiatrist 
(Dr. ___ visited the patient during her admission), and 
her sister-in-law. Patient spoke independently with her 
sister-in-law, brother, and family. 

 #) INTERVENTIONS
 - Medications: titrated lithium SR to 600mg po qhs. Continued 
clozapine 250mg po qAM + 300mg po qhs. Patient stated she still 
had a supply of lithium at home, did not require medication 
prescription on discharge. 
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy. Spiritual care consult
 - Coordination of aftercare: existing outpatient psychiatrist 
and wrap-around community supports 
 - Behavioral Interventions: encouraged and validated existing 
community supports, 
 -Guardianships: none

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal ideation 
with plan to slit her neck. Her static factors noted at that 
time include history of suicide attempts, chronic mental 
illness, Caucasian race, marital status, and chronic medical 
illness. Modifiable risk factors included mood lability, 
disorganization, suicidal ideation with plan without intent; 
these were addressed through lithium titration, to which patient 
responded well.  Finally, the patient is being discharged with 
many protective risk factors, including future-oriented 
viewpoint, resolution of suicidal ideation, help-seeking nature, 
medication adherence, female gender, engagement with outpatient 
providers, supportive family and community social supports, lack 
of substance use. At time of discharge, patient denied suicidal 
ideation above baseline and participated in safety planning if 
suicidal urges recurred (family, providers, ___. Overall, 
patient appears  stabilized and no longer meets criteria for 
inpatient psychiatric admission. Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clozapine 250 mg PO DAILY 
2. Clozapine 300 mg PO QHS 
3. Lithium Carbonate 450 mg PO QHS 
4. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1.  Psyllium Powder 1 PKT PO BID  
2.  Senna 8.6 mg PO BID  
3.  Vitamin D 4000 UNIT PO DAILY  
4.  Lithium Carbonate SR (Lithobid) 600 mg PO QHS 
Lithobid SR  
5.  Clozapine 250 mg PO DAILY  
6.  Clozapine 300 mg PO QHS  
7.  Levothyroxine Sodium 25 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
schizoaffective disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
.
Mental Status: 
-Appearance: Stated age, dressed casually. Slightly overweight. 
-Behavior/Attitude: Good eye contact, fairly rigid, smiling at
times
-Mood: 'Great'
-Affect: Slightly cheery, constricted, mild anxiety
-Speech: Somewhat monotone, normal rate and volume
-Thought process: Linear processes, concrete
-Thought Content: Appropriately asks about discharge medication 
regimen, safety plans (agrees to contact family or providers if 
SI recurs). Denies active SI. No signs of delusions, paranoia, 
or any
perceptual abnormalities 
-Oriented: x4
-Insight: Fair
-Judgment: Intact

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
- National Suicide Prevention Lifeline
  ___
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___